US03996232
A stirred mixture of 15.5 g (0.0687 mole) of α-methyl-p-trifluoromethylbenzylamine hydrochloride and 9.55 g (0.0756 mole) of 1-i-propyl-3-cyanoguanidine is immersed in a 190° C oil bath for ten minutes. The melt is cooled to room temperature, dissolved in 100 ml of water, made alkaline with 40% sodium hydroxide solution and extracted twice with 200 ml of ether. The combined ether extracts are dried over potassium carbonate, filtered, and the ether solution made strongly acidic with a saturated ethereal hydrochloric acid ether solution. The precipitate is collected on a filter, washed twice with 50 ml of anhydrous ether, and dried at 40°C/125 mm. for 5 hours. The dihydrochloride is dissolved in 50 ml of water, made strongly alkaline with 40% sodium hydroxide solution, and extracted twice with 100 ml of ether. The combined ether extracts are dried over potassium carbonate, filtered, and the ether solution made strongly acidic with a saturated ethereal hydrochloric acid solution. The precipitate is collected on a filter, washed twice with 50 ml of anhydrous ether, and dried at 40° C/125 mm. to obtain 1-(α-methyl-p-trifluoromethylbenzyl)-5-i-propylbiguanide dihydrochloride.

reactant | α-methyl-p-trifluoromethylbenzylamine hydrochloride | 0.0687 mole, 15.5 g | Cl.CC(C1=CC=C(C=C1)C(F)(F)F)N
reactant | 1-i-propyl-3-cyanoguanidine | 0.0756 mole, 9.55 g | C(C)(C)NC(=N)NC#N | C5H10N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 1-(α-methyl-p-trifluoromethylbenzyl)-5-i-propylbiguanide dihydrochloride | Cl.Cl.CC(C1=CC=C(C=C1)C(F)(F)F)NC(=N)NC(=N)NC(C)C | InChI=1S/C14H20F3N5.2ClH/c1-8(2)20-12(18)22-13(19)21-9(3)10-4-6-11(7-5-10)14(15,16)17;;/h4-9H,1-3H3,(H5,18,19,20,21,22);2*1H
